US06500853B1
2-(1-benzyl-5-phenyl-1H-indol-3-yl)acetic acid
The title compound was prepared according to the procedure described in Example 78 except that 2-[5-bromo-1-benzyl-1H-indol-3-yl]acetic acid and phenylboronic acid were used.

reactant | 2-[5-bromo-1-benzyl-1H-indol-3-yl]acetic acid | BrC=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)CC(=O)O | C17H14BrNO2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-(1-benzyl-5-phenyl-1H-indol-3-yl)acetic acid | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=CC=C1)CC(=O)O | C23H19NO2
